US07777042B2
Lithium aluminum hydride (0.95 mL of a 1.0 M solution in THF, 0.95 mmoles) was added to a room temperature solution of [(S)-1-(Methoxy-methyl-carbamoyl)-2-phenyl-ethyl]-carbamic acid benzyl ester (0.30 g, 0.86 mmoles) in THF (10 mL). The resulting mixture was stirred at room temperature for 2 h, then was quenched by dilution with EtOAc (200 mL), and washed with 1% aqueous HCl (200 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was repeatedly diluted with CH3CN (2×200 mL) and concentrated in vacuo to give 0.24 g (approximately quantitative yield) of ((S)-1-Benzyl-2-oxo-ethyl)-carbamic acid benzyl ester as a colorless oil, which was carried on without further purification: ES+ LC/MS m/e 284 (M+H), RT=4.75 min.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [(S)-1-(Methoxy-methyl-carbamoyl)-2-phenyl-ethyl]-carbamic acid benzyl ester | 0.86 mmoles, 0.30 g | C(C1=CC=CC=C1)OC(N[C@@H](CC1=CC=CC=C1)C(N(C)OC)=O)=O | C19H22N2O4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ((S)-1-Benzyl-2-oxo-ethyl)-carbamic acid benzyl ester | 0.24 g, approximately quantitative yield | C(C1=CC=CC=C1)OC(N[C@H](C=O)CC1=CC=CC=C1)=O | C17H17NO3
